US07122545B2
0.41 g of 1H-Imidazole-2-carboxylic acid [2-methoxy-5-(tetrahydro-pyran-4-yl)-phenyl]-amide (1.36 mmol) were taken up in toluene (25.0 ml) and treated with 1.65 g of Lawesson reagent (4.08 mmol). The reaction mixture was heated to reflux for 16 h. After cooling to ambient temperature, water (25 ml) was added and the mixture was extracted 3 times with methylene chloride. The combined organic phases were dried on sodium carbonate, evaporated and the residue was dried under high vacuum to yield 0.179 g of 1H-imidazole-2-carbothioic acid [2-methoxy-5-(tetrahydro-pyran-4-yl)-phenyl]-amide (41%) as a yellow solid; M.p.: 189–190° C.

reactant | 1H-Imidazole-2-carboxylic acid [2-methoxy-5-(tetrahydro-pyran-4-yl)-phenyl]-amide | 1.36 mmol, 0.41 g | COC1=C(C=C(C=C1)C1CCOCC1)NC(=O)C=1NC=CN1 | C16H19N3O3
reactant | Lawesson reagent | 4.08 mmol, 1.65 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | water | 25 ml | O | H2O
solvent | toluene | 25.0 ml | C1(=CC=CC=C1)C | C7H8
product | 1H-imidazole-2-carbothioic acid [2-methoxy-5-(tetrahydro-pyran-4-yl)-phenyl]-amide | 0.179 g, 41% | COC1=C(C=C(C=C1)C1CCOCC1)NC(=S)C=1NC=CN1 | C16H19N3O2S
